US04044057
To 0.97 g. (0.04 g. atom) of magnesium in a 250 ml. 3-necked round bottomed flask fitted with dropping funnel, magnetic stirrer, and nitrogen inlet was added 25 ml. of ether. Then 5.0 g. (0.035 mole) of methyl iodide in 100 ml. of ether was added from a dropping funnel at such a rate that reflux was maintained as the Grignard reagent was formed. After all the methyl iodide was added, the solution was stirred and refluxed for an additional 1 hour. Then 4.98 g. (0.03 mole) of 4,4,6-trimethylbicyclo[4.2.0]octane-2-one was added in 75 ml. of ether over 30 minutes. After all of the ketone was added, the solution was stirred for an additional 1 hour and then 50 ml. of saturated aqueous ammonium chloride was added. The layers were separated and the aqueous layer was extracted twice with 50 ml. portions of ether. The combined ether layers were dried over sodium sulfate and concentrated in vacuo to yield a solid which was sublimed. The recovered product was 5.3 g. (0.029 mole, 97% yield) of 2,4,4,6-tetramethylbicyclo[4.2.0]octane-2-ol. m.p. 54° - 55° C. nmr: (deuterochloroform): 0.92δ (S-34); 1.02δ (S-34); 1.13δ (S-34); 1.21δ (S-34); 1.28δ - 2.25δ (complex multiplets10H). IR: 3610 cm-1.

reactant | methyl iodide | 0.035 mole | CI | CH3I
reactant | 4,4,6-trimethylbicyclo[4.2.0]octane-2-one | 0.03 mole | CC1(CC(C2CCC2(C1)C)=O)C | C11H18O
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | magnesium | 0.04 g | [Mg] | Mg
solvent | ether | CCOCC | C4H10O
product | 2,4,4,6-tetramethylbicyclo[4.2.0]octane-2-ol | 0.029 mole, 97% yield | CC1(C2CCC2(CC(C1)(C)C)C)O | C12H22O
